US04486444
Step D: Preparation of 5-(4-Hydroxybenzoyl)thiophene-2-sulfonamide
A mixture of 5-(4-methoxybenzoyl)thiophene-2-sulfonamide (5.48 g) and pyridine hydrochloride (50 g.) was heated to 200° C. for 0.5 hour. Water (400 mL) was added to the cooled reaction mixture and the solid collected by filtration. This solid was stirred with 1N hydrochloric acid (100 mL) for 0.5 hour, filtered, washed with water and dried at 70° C., 4.11 g, m.p. 183°-190° C. Treatment of this material with acetonitrile, followed by sodium bicarbonate solution then 3N hydrochloric acid, and recrystallization from water gave 1.70 g, m.p. 200°-201° C.

reactant | 5-(4-methoxybenzoyl)thiophene-2-sulfonamide | 5.48 g | COC1=CC=C(C(=O)C2=CC=C(S2)S(=O)(=O)N)C=C1 | C12H11NO4S2
reactant | pyridine hydrochloride | 50 g | Cl.N1=CC=CC=C1
solvent | Water | 400 mL | O | H2O
product | 5-(4-Hydroxybenzoyl)thiophene-2-sulfonamide | OC1=CC=C(C(=O)C2=CC=C(S2)S(=O)(=O)N)C=C1 | C11H9NO4S2
